US07557213B2
Experimental conditions analogous to those described for Step 3 of Example 1 were used with 100 mg (0.324 mmol) of 3-(4-Methoxy-3-methyl-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one, 97.7 mg (0.389 mmol) of 2-bromo-6-bromomethyl-pyridine, 15.6 mg (0.389 mmol, 60% dispersion in oil), and 1 mL of N,N-dimethylformamide. The crude product was purified by flash column chromatography using a gradient of 20-100% ethyl acetate in hexane and further purified on the reverse phase HPLC with a C18 column, gradient of 20-70% acetonitrile—0.1% TFA to yield 52.6 mg of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(4-methoxy-3-methyl-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one. LC-MSD, m/z for C24H20BrN3O3 [M+H]: 478.07 LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 4 minutes: 2.1 min

reactant | 3-(4-Methoxy-3-methyl-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one | 0.324 mmol, 100 mg | COC1=C(C=C(C(=O)C2=CNC3=CC=C(N=C3C2=O)C)C=C1)C | C18H16N2O3
reactant | 2-bromo-6-bromomethyl-pyridine | 0.389 mmol, 97.7 mg | BrC1=NC(=CC=C1)CBr | C6H5Br2N
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(4-methoxy-3-methyl-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one | 52.6 mg | BrC1=CC=CC(=N1)CN1C=C(C(C2=NC(=CC=C12)C)=O)C(C1=CC(=C(C=C1)OC)C)=O | C24H20BrN3O3
